US08471005B2
(6-Methoxy-2-oxetan-3-yl-2,3-dihydro-1H-isoindol-5-yl)-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (50.00 mg, 0.207) was dissolved in N,N-Dimethylformamide (4.0 mL) at 0° C. and sodium hydride (60% dispersion in mineral oil; 10.4 mg, 0.259 mmol) was added and the reaction was let to stir for 30 minutes. Then, N-phenylbis(trifluoromethanesulphonimide) (81.4 mg, 0.228 mmol) was added and the reaction was allowed to warm to room temperature. After 100% conversion to the triflate, 6-methoxy-2-oxetan-3-yl-2,3-dihydro-1H-isoindol-5-ylamine (57.1 mg, 0.259 mmol 1) was added the reaction was allowed to stir at room temperature. The reaction mixture was partitioned between dichloromethane and saturated aqueous Na2CO3. The aqueous layer was extracted with dichloromethane, the combined organics were dried over sodium sulfate and filtered. The solvent was evaporated under reduced pressure and the product was isolated by preparative reverse phase hplc (Gilson) as a brown foam (11 mg, 12%). 1H-NMR (CDCl3) δ 8.70 (s, 1H), 8.27 (s, 1H), 7.96 (d, J=7.2 Hz, 1H), 7.51 (br s, 1H), 7.42 (m, 1H), 7.08 (m, 2H), 7.02 (d, J=4.6 Hz, 1H), 6.84 (d, J=4.6 Hz, 1H) 6.74 (br s, 1H), 4.78 (m, 4H), 4.09 (m, 1H), 3.95 (br s, 2H), 3.89 (s, 3H), 3.85 (br s, 2H), 3.83 (s, 3H); LC/MS (ESI+): 444.0 (M+H).

reactant | 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 50.00 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O2
reactant | sodium hydride | 0.259 mmol, 10.4 mg | [H-].[Na+]
reactant | N-phenylbis(trifluoromethanesulphonimide) | 0.228 mmol, 81.4 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | 6-methoxy-2-oxetan-3-yl-2,3-dihydro-1H-isoindol-5-ylamine | 0.259 mmol, 57.1 mg | COC1=C(C=C2CN(CC2=C1)C1COC1)N | C12H16N2O2
solvent | N,N-Dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | (6-Methoxy-2-oxetan-3-yl-2,3-dihydro-1H-isoindol-5-yl)-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | 11 mg, 12% | COC1=C(C=C2CN(CC2=C1)C1COC1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C25H25N5O3
